US05393755
cis-5,6a,7,8,9,9a-Hexahydro-5-methyl-3-(4-chlorophenylmethyl)cyclopenta[4,5]imidazo[2,1-b]purin-4(3H)-one.
Add a solution of cis-5,6a,7,8,9,9a-hexahydro-5-methylcyclopenta[4,5]imidazo[2,1-b]purin-4-one (0.5 g=2.2 mmol)in DMF drop-wise to a slurry of 60% NaH (0.1 g=2.4 mmol) in DMF at 30° C. When gas evolution ceases, add 4-chlorobenzyl chloride (0.5 g=2.4 mmol) in 2 ml DMF. Heat at 50° C. two hours. Remove DMF and partition between EtOAc and water. Dry, solvent strip, and recrystallize from CH3CN to give the title compound, a white solid. CI MS: M+ =356.

reactant | cis-5,6a,7,8,9,9a-hexahydro-5-methylcyclopenta[4,5]imidazo[2,1-b]purin-4-one | 2.2 mmol, 0.5 g | CN1C=2N(C=3N=CNC3C1=O)[C@@H]1[C@H](N2)CCC1 | C11H13N5O
reactant | NaH | 2.4 mmol, 0.1 g | [H-].[Na+]
reactant | 4-chlorobenzyl chloride | 2.4 mmol, 0.5 g | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
solvent | DMF | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | cis-5,6a,7,8,9,9a-Hexahydro-5-methyl-3-(4-chlorophenylmethyl)cyclopenta[4,5]imidazo[2,1-b]purin-4(3H)-one | CN1C=2N(C=3N=CN(C3C1=O)CC1=CC=C(C=C1)Cl)[C@@H]1[C@H](N2)CCC1 | C18H18ClN5O
